US06908599B2
Accordingly, the present invention provides an improved process for the production of zirconium boride, which comprises mixing powders of zirconium chloride in the range of 20-25% wt, Boric acid (H3BO3) in the range of 35-44 wt % and small cut turnings Magnesium (Mg) in the range of 33-40 wt % and pelletising the mixture so prepared, igniting the prepared pellets under inert atmosphere and leaching the resultant product (ZrB2 and MgO) with leachant to obtain zirconium boride.

reactant | zirconium chloride | [Cl-].[Zr+4].[Cl-].[Cl-].[Cl-]
reactant | Boric acid | B(O)(O)O | BH3O3
reactant | Magnesium | [Mg] | Mg
product | zirconium boride | [B].[B].[B].[B].[B].[B].[B].[B].[B].[B].[B].[B].[Zr] | InChI=1S/12B.Zr
